US07553837B2
Step 5: Production of 5-(4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)methylaminophenyl)pyrazole
To 0.26 g of 5-(4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)methylaminophenyl) pyrazole, 10 ml of ethanol was added and 0.43 g of stannous chloride dihydrate and 3 ml of concentrated hydrochloric acid were added, followed by heating at reflux for 2 hours. The reaction solution was poured into water, neutralized with a sodium hydroxide solution and then extracted with chloroform. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1) to obtain 0.22 g of the objective product (melting point: 113-117° C.)

reactant | 5-(4-(±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)methylaminophenyl) pyrazole | 0.26 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)CC2=CC(=C(C=C2)C2=CC=NN2)NC)C1C)C)C | C23H28N4O3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)methylaminophenyl)pyrazole | 0.22 g | NC1=C(C(=C2C(CC(O2)(C)CC2=CC(=C(C=C2)C2=CC=NN2)NC)C1C)C)C | C23H30N4O
